US06734200B1
3-(4-(1-Benzyl-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-acetoxy-methyloxazolidin-2-one
3-(4-(1-Benzyl-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-hydroxymethyloxazolidin-2-one (20 g, 50 mM, see WO 97-30995) was suspended by stirring in dry dichloromethane (400 ml) under nitrogen at 0°, and treated with triethylamine (5.5 g, 54.4 mM) and 4-dimethylaminopyridine (0.3 g, 2.7 mM). Acetic anhydride (5.3 g, 52 mM) was added dropwise to give a solution, which was stirred for 1 hour, allowing the temperature to rise to ambient. The mixture was shaken with 5% aqueous sodium bicarbonate (200 ml) until carbon dioxide evolution ceased. The organic phase was separated, dried (magnesium sulfate) and evaporated, then azeotroped with toluene (2×50 ml) to give semi-crystalline product of sufficient purity for the next stage (24 g). NMR (DMSO-d6) δ: 2.03 (s, 3H); 2.30 (br, 2H); 2.61 (t, 2H); 3.04 (m, 2H); 3.58 (s, 2H); 3.82 (dd, 1H); 4.14 (t, 1H); 4.23 (dd, 1H); 4.30 (dd, 1H); 4.95 (m, 1H); 5.78 (s, 1H); 7.30(s overlapping m, 7H). MS (ESP): 443 (MH+) for C24H24F2N2O4

reactant | 3-(4-(1-Benzyl-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-hydroxymethyloxazolidin-2-one | 50 mM, 20 g | C(C1=CC=CC=C1)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CO)=O)F | C22H22F2N2O3
reactant | Acetic anhydride | 52 mM, 5.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.7 mM, 0.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | 54.4 mM, 5.5 g | C(C)N(CC)CC | C6H15N
product | 3-(4-(1-Benzyl-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-acetoxy-methyloxazolidin-2-one | C(C1=CC=CC=C1)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1C)OC(C)=O)=O)F | C24H24F2N2O4
